US07723330B2
Step D: Preparation of N-benzyl-N-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)acetamide:
To a flask containing N-benzyl-N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)acetamide (38 mg, 0.074 mmol) at ambient temperature under a drying tube was added TFA (2 mL). The mixture was heated to 50° C. and stirred for 4 hours. The reaction was cooled to ambient temperature and concentrated. The residue was treated with 5 mL 10% sodium carbonate and then 5 mL dichloromethane. The mixture was rapidly stirred and the layers separated. The aqueous phase was extracted with dichloromethane and the combined organic layers were dried (MgSO4), filtered, and concentrated. The crude material was loaded onto a Biotage 12S column with dichloromethane and eluted with 7/3 EtOAc/hexanes to provide the desired product as a white foam (17 mg, 59% yield). 1H NMR (400 MHz, CDCl3) δ 11.68 (br s, 1H), 8.35 (m, 1H), 7.31 (m, 3H), 7.23 (m, 3H), 6.93 (m, 2H), 6.16 (d, 1H), 4.93 (s, 2H), 2.73 (s, 3H), 2.00 (br s, 3H). LCMS (APCI+): m/z 391 (M+1) detected.

reactant | N-benzyl-N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)acetamide | 0.074 mmol, 38 mg | C(C1=CC=CC=C1)N(C(C)=O)C1=CC(=C(C=C1)OC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC)F | C30H27FN4O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-benzyl-N-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)acetamide | 17 mg, 59% yield | C(C1=CC=CC=C1)N(C(C)=O)C1=CC(=C(C=C1)OC1=C2C(=NC=C1)NN=C2C)F | C22H19FN4O2
